US05831002
d) H-Val-MeVal-Pro-OMe
29.3 g (61.6 mmol) of Z-Val-MeVal-Pro-OMe were dissolved in 230 ml methanol. After addition of 1.15 g 10% Palladium/charcoal, the reaction mixture was hydrogenated. Filtration and evaporation to dryness yielded 21.96 g of the product.

reactant | Z-Val-MeVal-Pro-OMe | 61.6 mmol, 29.3 g | N([C@@H](C(C)C)C(=O)N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)OC)CCC1)C)C(=O)OCC1=CC=CC=C1 | C25H37N3O6
solvent | methanol | 230 ml | CO | CH4O
catalyst | Palladium/charcoal | 1.15 g | [Pd] | Pd
product | H-Val-MeVal-Pro-OMe | 21.96 g | N[C@@H](C(C)C)C(=O)N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)OC)CCC1)C | C17H31N3O4
